US08106190B2
A mixture of [7-{[2-(cyclohexylamino)-4-(trifluoromethyl)benzoyl]amino}-2-oxo-3,4-dihydroquinolin-1(2H)-yl]acetic acid (70 mg), N,N′-carbonyldiimidazole (70 mg), methylamine aqueous solution (1 mL) and THF was stirred at room temperature for 3 hours, mixed with methanol and stirred for 20 minutes. A 0.5 M hydrochloric acid was added to the reaction liquid, followed by extraction with ethyl acetate. The organic layer was concentrated under a reduced pressure, and the residue was purified by silica gel column chromatography (chloroform:methanol, 20:1 to 10:1) to obtain 2-(cyclohexylamino)-N-{1-[2-(methylamino)-2-oxoethyl]-2-oxo-1,2,3,4-tetrahydroquinolin-7-yl}-4-(trifluoromethyl)benzamide (12 mg) as a solid.

reactant | [7-{[2-(cyclohexylamino)-4-(trifluoromethyl)benzoyl]amino}-2-oxo-3,4-dihydroquinolin-1(2H)-yl]acetic acid | 70 mg | C1(CCCCC1)NC1=C(C(=O)NC2=CC=C3CCC(N(C3=C2)CC(=O)O)=O)C=CC(=C1)C(F)(F)F | C25H26F3N3O4
reactant | methylamine | 1 mL | CN | CH5N
reactant | THF | C1CCOC1 | C4H8O
reactant | hydrochloric acid | 0.5 M | Cl | ClH
solvent | methanol | CO | CH4O
product | 2-(cyclohexylamino)-N-{1-[2-(methylamino)-2-oxoethyl]-2-oxo-1,2,3,4-tetrahydroquinolin-7-yl}-4-(trifluoromethyl)benzamide | 12 mg | C1(CCCCC1)NC1=C(C(=O)NC2=CC=C3CCC(N(C3=C2)CC(=O)NC)=O)C=CC(=C1)C(F)(F)F | C26H29F3N4O3
